*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/asynCounter_lpe.spi
#else
.include ../../../work/xsch/asynCounter.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p
.param PERIOD_CLK=50n
.param vdda = 1.8
.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD  VSS   dc 1.8
VCLK CLK  0     dc 0   pulse(0 {AVDD} 10n {TRF} {TRF} {PERIOD_CLK/2} {PERIOD_CLK})
VRESET RESET 0  dc 0   pulse(0 {AVDD} 2u  {TRF} {TRF} {PERIOD_CLK*6} 2u)
*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit



tran 1n 6u
write
quit


.endc

.end
